US04060630
A solution of 0.05 mole of N-(2,5-dichlorophenyl)-N',N'-diethylethylenediamine obtained by alkylating 2,5-dichloroaniline with N,N-diethyl-β-chloroethylamine, and 0.05 mole of 2-chloroacetophenone in dimethoxyethane containing 0.05 mole of triethylamine was stirred at room temperature for 24 hours under a nitrogen atmosphere after which the solvent was removed at reduced pressure. The residue was dissolved in 200 ml of chloroform and washed with 5% aqueous sodium carbonate, dried over sodium sulfate and evaporated to dryness to give 2-[N-(2,5-dichlorophenyl)-N-(β-diethylaminoethyl)amino]acetophenone.

reactant | 2,5-dichloroaniline | ClC1=C(N)C=C(C=C1)Cl | C6H5Cl2N
reactant | N,N-diethyl-β-chloroethylamine | C(C)N(CC)CCCl | C6H14ClN
reactant | 2-chloroacetophenone | 0.05 mole | ClCC(=O)C1=CC=CC=C1 | C8H7ClO
reactant | dimethoxyethane | 0.05 mole | C(OC)COC | C4H10O2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-[N-(2,5-dichlorophenyl)-N-(β-diethylaminoethyl)amino]acetophenone | ClC1=C(C=C(C=C1)Cl)N(CCN(CC)CC)CC(=O)C1=CC=CC=C1 | C20H24Cl2N2O
